US08247396B2
The protocol was established from works by: D. E. Pearson et al. J. Org. Chem. 1967, 2358-2360. tert-butylamine (3.23 ml, 30.78 mmol) is stirred under argon in 100 ml of toluene for 2 hours at ambient temperature in the presence of an activated 4 Å molecular sieve (10 g). After cooling to −70° C., N-bromosuccinimide (5.48 g; 30.78 mmol) and 2-methyl-8-hydroxyquinoline (5.00 g; 30.78 mmol) are added in succession. The mixture is slowly brought to ambient temperature (approximately 4 hours). The reaction medium is filtered and the molecular sieve is washed with diethyl ether (20 ml). The filtrate is washed in water (3×50 ml), dried over anhydrous Na2SO4 and the organic phase is concentrated to yield a solid which is brought to reflux in 100 ml of hexane for 1 hour. After 24 hours at ambient temperature, the precipitate is filtered and dried under vacuum to yield 7-bromo-2-methyl-8-hydroxyquinoline in the form of a white powder (4.85 g; 20.47 mmol, yield=67%). NMR-1H (250 MHz, CDCl3) δ, ppm: 8.00 (d, 3J (H, H)=8.5 Hz, 1H); 7.52 (d, 3J (H, H)=9.0 Hz, 1H); 7.31 (d, 3J (H, H)=8.5 Hz, 1H); 7.16 (d, 3J (H, H)=9.0 Hz, 1H); 2.72 (s, 3H). NMR-13C (63 MHz, CDCl3) δ, ppm: 157.9; 149.2; 137.7; 136.2; 130.1; 125.4; 122.9; 118.2; 103.9; 24.8. MS (CID, NH3): m/z=238 (MH+). Analysis (%) for C10H8BrNO: calculated C, 50.45. H, 3.39. N, 5.88. found C, 50.02. H, 3.37. N, 6.12.

reactant | tert-butylamine | 30.78 mmol, 3.23 ml | C(C)(C)(C)N | C4H11N
reactant | N-bromosuccinimide | 30.78 mmol, 5.48 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methyl-8-hydroxyquinoline | 30.78 mmol, 5.00 g | CC1=NC2=C(C=CC=C2C=C1)O | C10H9NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 7-bromo-2-methyl-8-hydroxyquinoline | yield=67% | BrC1=CC=C2C=CC(=NC2=C1O)C | C10H8BrNO
